US07176212B2
4-Anilino-2-[4-(2,3-epoxypropoxy)anilino]pyrimidine
4-Anilino-2-(4-hydroxyanilino)pyrimidine (Reference Example H-1, 0.541 g, 1.95 mmol) was dissolved in DMSO (2 ml) and treated with K2CO3 (0.537 g, 3.89 mmol) and epibromohydrin (0.33 ml, 0.53 g, 3.9 mmol). The reaction was allowed to stir at ambient temperature overnight. After warming to 40° C. for 5 hours the reaction was partitioned between EtOAc and water. The organic phase was washed four times with water, dried over MgSO4 and evaporated at reduced pressure. The residue was purified by chromatography (1–5% MeOH in DCM) to give the title product as an oil (0.614 g, 94%). NMR (300 MHz): 2.69 (m, 1H), 2.83 (m, 1H), 3.88 (m, 1H), 4.25 (m, 1H), 6.15 (d, 1H), 6.85 (d, 2H), 7.97 (t, 1H), 7.27 (t, 2H), 7.58 (d, 2H), 7.66 (d, 2H), 7.95 (d, 1H), 8.9 (s, 1H), 9.23 (s, 1H); m/z: (ES+) 335 (MH+).

reactant | 4-Anilino-2-(4-hydroxyanilino)pyrimidine | 1.95 mmol, 0.541 g | N(C1=CC=CC=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)O | C16H14N4O
reactant | K2CO3 | 3.89 mmol, 0.537 g | C(=O)([O-])[O-].[K+].[K+]
reactant | epibromohydrin | 3.9 mmol, 0.33 ml, 0.53 g | C(Br)C1CO1 | C3H5BrO
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | 4-Anilino-2-[4-(2,3-epoxypropoxy)anilino]pyrimidine | 0.614 g, 94% | N(C1=CC=CC=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)OCC1CO1 | C19H18N4O2
